US04778931
For compounds in which X is --NR2 --(CHR1)n --, the corresponding amino starting compounds are employed to form the desired amino compound. Thus, aniline is condensed with 3-(1-hydroxyhexyl)benzylbromide to form 2-[3-(1-hydroxyhexyl)benzylamino]benzene. Alternatively, benzyl bromide is condensed with 3-(1-hydroxyhexyl)aniline to form 2-[3-(1-hydroxyhexyl)anilinomethyl]benzene.

reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 3-(1-hydroxyhexyl)aniline | OC(CCCCC)C=1C=C(N)C=CC1 | C12H19NO
product | 2-[3-(1-hydroxyhexyl)anilinomethyl]benzene | OC(CCCCC)C=1C=C(NCC2=CC=CC=C2)C=CC1 | C19H25NO
